US04458079
1-[2-(4-Methylbenzylsulfinyl)-2-(4-methylbenzylthio)ethyl]-1H-imidazole Hydrochloride Diastereomer A and Diastereomer B
A solution of 85% m-chloroperbenzoic acid (1.66 g, 9.63 mmoles) in chloroform (80 ml) was added dropwise during 1 hour to a stirred, cooled (ice/water) solution of 1-[2,2-bis(4-methylbenzylthio)ethyl]-1H-imidazole (3.55 g, 9.63 mmoles) in chloroform (125 ml). The solution was stirred for 18 hours at ambient temperature and then washed successively with aqueous Na2CO3 (2×), H2O and brine. The solution was dried over Na2SO4 and concentrated to leave a mixture of the diastereoisomeric mono-sulfoxides as a cloudy oil. Trituration of the oil with ether afforded the free base of diastereomer A (1.45 g), mp 86°-92° which was converted into the hydrochloride salt, mp 167°-170° with ethereal hydrogen chloride. Hydrogen chloride was bubbled into the ethereal mother liquor from the trituration step to give a mixture of the hydrochloride salts which after recrystallization from acetonitrile provided additional diastereomer A, mp 164°-168° (0.42 g) and 0.57 g of diastereomer B, mp 141°-146°.

reactant | m-chloroperbenzoic acid | 9.63 mmoles, 1.66 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 1-[2,2-bis(4-methylbenzylthio)ethyl]-1H-imidazole | 9.63 mmoles, 3.55 g | CC1=CC=C(CSC(CN2C=NC=C2)SCC2=CC=C(C=C2)C)C=C1 | C21H24N2S2
reactant | ether | CCOCC | C4H10O
reactant | hydrogen chloride | Cl | ClH
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 125 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[2-(4-Methylbenzylsulfinyl)-2-(4-methylbenzylthio)ethyl]-1H-imidazole Hydrochloride | Cl.CC1=CC=C(CS(=O)C(CN2C=NC=C2)SCC2=CC=C(C=C2)C)C=C1 | InChI=1S/C21H24N2OS2.ClH/c1-17-3-7-19(8-4-17)14-25-21(13-23-12-11-22-16-23)26(24)15-20-9-5-18(2)6-10-20;/h3-12,16,21H,13-15H2,1-2H3;1H
